US06777406B2
(8aR,11aR)-5,6,8,8a,9,10,11,11a-octahydro-4H-pyrido[3,2,1-ij]pyrrolo[3,4-c]quinoline, bis-hydrochloride salt
To a solution of ethyl 5-oxo-2,3-dihydro-1H,5H-pyrido[3,2,1-ij]quinoline-6-carboxylate (25.0 g, 97 mmol) in 400 mL of methylene chloride was added N-(methoxymethyl)-N-(trimethylsilylmethyl)benzylamine (46.1 g, 194 mmol) and trifluoroacetic acid (2.22 g, 19 mmol). The reaction mixture was stirred at 40° C. for 24 h. The reaction mixture was allowed to cool and was washed with sat'd aq. NaHCO3 and brine, dried (K2CO3) and concentrated in vacuo. The residue was purified by recrystallization from 4:1 hexane/ethyl acetate to afford 36.6 g (96%) of the title compound of Part B as an off white solid. 1H NMR (CDCl3) δ: 7.37-7.20 (m, 5H), 7.05-7.00 (m, 1H), 6.97-6.88 (m, 2H), 4.28-4.19 (m, 1H), 4.12-4.01 (m, 2H), 3.80-3.68 (m, 4H), 3.57 (ABq, 2H, JAB=10.2 Hz), 3.17 (app t, 1H, J=8.8 Hz), 2.85-2.77 (m, 2H), 2.49 (app t, 1H, J=9.5 Hz), 2.05-1.95 (m, 2H), 1.09 (t, 3H, J=7.0 Hz).

reactant | ethyl 5-oxo-2,3-dihydro-1H,5H-pyrido[3,2,1-ij]quinoline-6-carboxylate | 97 mmol, 25.0 g | O=C1C(=CC=2C=CC=C3CCCN1C23)C(=O)OCC | C15H15NO3
reactant | N-(methoxymethyl)-N-(trimethylsilylmethyl)benzylamine | 194 mmol, 46.1 g | COCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C13H23NOSi
reactant | trifluoroacetic acid | 19 mmol, 2.22 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | methylene chloride | 400 mL | C(Cl)Cl | CH2Cl2
product | (8aR,11aR)-5,6,8,8a,9,10,11,11a-octahydro-4H-pyrido[3,2,1-ij]pyrrolo[3,4-c]quinoline, bis-hydrochloride salt | 36.6 g, 96% | Cl.Cl.C1=C2[C@H]3[C@@H](CN4C2=C(C=C1)CCC4)CNC3 | InChI=1S/C14H18N2.2ClH/c1-3-10-4-2-6-16-9-11-7-15-8-13(11)12(5-1)14(10)16;;/h1,3,5,11,13,15H,2,4,6-9H2;2*1H/t11-,13-;;/m1../s1
